US05500453
A solution of 3.70 g of tetramethylammonium methyltris(p-methoxyphenyl)borate in 50 ml of acetonitrile was added to a solution of 5.00 g of bis(p-tert-butylphenyl)(p-chlorobenzyl)sulfonium hexafluorophosphate in 100 ml of acetonitrile, and the resultant mixture was stirred at room temperature for 30 minutes. Then, 200 ml of methanol was added. The resultant precipitate of a crystal was recovered, and 100 ml of dichloromethane was added. The dichloromethane layer was washed with water, dried and concentrated to give 2.31 g of bis(p-tert-butylphenyl)(p-chlorobenzyl)sulfonium-methyltris(p-methoxyphenyl)borate.

reactant | tetramethylammonium methyltris(p-methoxyphenyl)borate | 3.70 g | C[B-](C1=CC=C(C=C1)OC)(C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC.C[N+](C)(C)C
reactant | bis(p-tert-butylphenyl)(p-chlorobenzyl)sulfonium hexafluorophosphate | 5.00 g | F[P-](F)(F)(F)(F)F.C(C)(C)(C)C1=CC=C(C=C1)[S+](CC1=CC=C(C=C1)Cl)C1=CC=C(C=C1)C(C)(C)C
reactant | methanol | 200 ml | CO | CH4O
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | bis(p-tert-butylphenyl)(p-chlorobenzyl)sulfonium methyltris(p-methoxyphenyl)borate | 2.31 g | C(C)(C)(C)C1=CC=C(C=C1)[S+](CC1=CC=C(C=C1)Cl)C1=CC=C(C=C1)C(C)(C)C.C[B-](C1=CC=C(C=C1)OC)(C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | InChI=1S/C27H32ClS.C22H24BO3/c1-26(2,3)21-9-15-24(16-10-21)29(19-20-7-13-23(28)14-8-20)25-17-11-22(12-18-25)27(4,5)6;1-23(17-5-11-20(24-2)12-6-17,18-7-13-21(25-3)14-8-18)19-9-15-22(26-4)16-10-19/h7-18H,19H2,1-6H3;5-16H,1-4H3/q+1;-1
